US07179823B1
A mixture of 3-picolyl chloride hydrochloride (148 mg), methyl 3-[1-(4-hydroxybenzyl)-3-phenyl-1H-pyrazol-4-yl]propionate (300 mg), potassium carbonate (357 mg) and N,N-dimethylformamide (5 ml) was stirred at 50° C. for 3 hours. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), then concentrated. The residue was subjected to silica gel column chromatography, and a colorless oily substance was obtained from the fraction eluted with ethyl acetate. A mixture of the oily substance obtained, lithium hydroxide monohydrate (108 mg), tetrahydrofuran (6 ml), water (4 ml), and methanol (4 ml) was stirred at room temperature for 2 hours, and 1N hydrochloric acid (2.6 ml) was added to the mixture, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), then concentrated. The colorless crystals obtained were collected by filtration to yield 3-[3-phenyl-1-[4-(3-pyridylmethoxy)benzyl]-1H-pyrazol-4-yl]propionic acid (279 mg, yield: 78%). This was recrystallized from acetone-hexane. Melting point: 112–113° C.

reactant | 3-picolyl chloride hydrochloride | 148 mg | Cl.N1=CC(=CC=C1)CCl
reactant | methyl 3-[1-(4-hydroxybenzyl)-3-phenyl-1H-pyrazol-4-yl]propionate | 300 mg | OC1=CC=C(CN2N=C(C(=C2)CCC(=O)OC)C2=CC=CC=C2)C=C1 | C20H20N2O3
reactant | potassium carbonate | 357 mg | C([O-])([O-])=O.[K+].[K+]
reactant | lithium hydroxide monohydrate | 108 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1N, 2.6 ml | Cl | ClH
solvent | methanol | 4 ml | CO | CH4O
solvent | water | 4 ml | O | H2O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-[3-phenyl-1-[4-(3-pyridylmethoxy)benzyl]-1H-pyrazol-4-yl]propionic acid | 279 mg, yield: 78% | C1(=CC=CC=C1)C1=NN(C=C1CCC(=O)O)CC1=CC=C(C=C1)OCC=1C=NC=CC1 | C25H23N3O3
